US08648068B2
1.5 4-[4-Fluoro-2-((S)-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
HCl in methanol (4M; 2.5 ml) was added into a suspension of (S)-3-[2-(6-carbamoyl-5-methyl-thieno[2,3-d]pyrimidin-4-ylamino)-5-fluoro-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester (0.96 g) in methanol (10 ml). The reaction was stirred at room temperature for 3.5 h. The solvent was removed in vacuo and the residue co-evaporated with chloroform. The crude HCl salt was purified by chromatography.

reactant | HCl | Cl | ClH
reactant | (S)-3-[2-(6-carbamoyl-5-methyl-thieno[2,3-d]pyrimidin-4-ylamino)-5-fluoro-phenoxy]-piperidine-1-carboxylic acid tert-butyl ester | 0.96 g | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(N)=O | C24H28FN5O4S
solvent | methanol | 4M, 2.5 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 4-[4-Fluoro-2-((S)-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)O[C@@H]2CNCCC2 | C19H20FN5O2S
